US07576215B2
3-[3-(2-METHYLPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOL
The title compound was prepared from [2-amino-3-(trifluoromethyl)phenyl]-(3-hydroxy-phenyl)methanone and o-Tolyl-acetaldehyde following the procedure of Example 457: MS (ESI) m/z 380.126; HRMS: calcd for C23H16F3NO+H+, 380.12567; found (ESI, [M+H]+), 380.126.

reactant | [2-amino-3-(trifluoromethyl)phenyl]-(3-hydroxy-phenyl)methanone | NC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC(=CC=C1)O | C14H10F3NO2
reactant | o-Tolyl-acetaldehyde | C1(=C(C=CC=C1)CC=O)C | C9H10O
product | 3-[3-(2-METHYLPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOL | CC1=C(C=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO
